US08217032B2
[2-(2,3-Difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Charge a flask with [2-(2,3-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (1.3 g, 2.6 mmol) and add 200 mL methylene chloride followed by 25 mL of HCl in ether (1 M) and evaporate to dryness. Dissolve the solid in 200 mL methylene chloride and chill the solution in ice. Add to this solution boron tribromide (4.0 mL, 42.4 mmol) with swirling. Stir the dark solution at room temperature for 1 hour at which point all the starting material is gone. Pour this into a two phase mixture consisting of saturated sodium bicarbonate aqueous phase and a 3/1 mixture of chloroform/isopropanol organic phase and extract using a separatory funnel. Separate the organic phase and dry over 3 Å molecular sieves. Purify on a silica column eluting with 0-10% methanol/methylene chloride, collecting the first fraction that contains the product to give 400 mg of the title compound (32%).

reactant | [2-(2,3-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 2.6 mmol, 1.3 g | FC1=C(C=CC=C1F)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO3
reactant | HCl | 25 mL | Cl | ClH
reactant | boron tribromide | 42.4 mmol, 4.0 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 1 M | CCOCC | C4H10O
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | [2-(2,3-Difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 400 mg, 32% | FC1=C(C=CC=C1F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
